US05382590
The procedure is analogous to that described in Example 84, but 1.4 g of (RS)-2-{2-{3-[3-(1-hydroxyethyl)phenyl]ureido}-N-phenylacetamido}-N-methyl-N-phenylacetamide and 4.7 g of manganese dioxide are used as the starting material. After recrystallization from ethyl acetate, 0.65 g of 2-{2-[3-(3-acetylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide melting at 170° C is obtained.

reactant | (RS)-2-{2-{3-[3-(1-hydroxyethyl)phenyl]ureido}-N-phenylacetamido}-N-methyl-N-phenylacetamide | 1.4 g | OC(C)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | C26H28N4O4
catalyst | manganese dioxide | 4.7 g | [O-2].[O-2].[Mn+4]
product | 2-{2-[3-(3-acetylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide | 0.65 g | C(C)(=O)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | C26H26N4O4
